US06992087B2
To a solution of (1R,2S)-1-{[3,6-dicyclopropyl-5-(2,4-dichlorophenyl)pyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol (0.76 g, 1.7 mmol) in toluene (10 mL) and THF (10 mL) was added PPh3 (1.14 g, 4.57 mmol). The solution was cooled to 0° C. and HN3 (5.6 mL, 6.38 mmol) and a solution of diethylazodicarboxylate (0.69 mL, 4.37 mmol) in toluene (10 mL) were added. The reaction was stirred at rt overnight. The precipitates were removed by filtration and the filtrate was concentrated. Dissolve residue in 1 N HCl and EtOAc. Extract with EtOAc (3×30 mL). The aqueous phase was neutralized with sat. aq. NaHCO3 to pH 7.5 followed by a small amount of 6 N NaOH to pH 9. The aqueous phase was extracted with CH2Cl2 (3×30 mL). The combined organic extracts were dried over MgSO4, filtered and concentrated. Purify by biotage MPLC (90 g column, 29-39% ethyl acetate/hexanes) to afford 0.8 g (78%) of N-[(1R,2R)-2-azido-2,3-dihydro-1H-inden-1-yl]-3,6-dicyclopropyl-5-(2,4-dichlorophenyl)pyrazin-2-amine as a solid: 1H NMR (CDCl3) δ 0.74-1.10, 1.63-1.71, 2.97-3.03, 3.36-3.42, 4.09-4.13, 4.26-4.29, 5.05, 5.57, 7.25-7.53; MS (ESI+) for C25H22Cl2N6 m/z 477 (M+H)+.

reactant | (1R,2S)-1-{[3,6-dicyclopropyl-5-(2,4-dichlorophenyl)pyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | 1.7 mmol, 0.76 g | C1(CC1)C=1C(=NC(=C(N1)C1=C(C=C(C=C1)Cl)Cl)C1CC1)N[C@H]1[C@H](CC2=CC=CC=C12)O | C25H23Cl2N3O
reactant | PPh3 | 4.57 mmol, 1.14 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | HN3 | 6.38 mmol, 5.6 mL | N=[N+]=[N-] | HN3
reactant | diethylazodicarboxylate | 4.37 mmol, 0.69 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | N-[(1R,2R)-2-azido-2,3-dihydro-1H-inden-1-yl]-3,6-dicyclopropyl-5-(2,4-dichlorophenyl)pyrazin-2-amine | 0.8 g, 78% | N(=[N+]=[N-])[C@H]1[C@@H](C2=CC=CC=C2C1)NC1=NC(=C(N=C1C1CC1)C1=C(C=C(C=C1)Cl)Cl)C1CC1 | C25H22Cl2N6
